US05142056
(2S,3R,4R,5S)-2.5-Diamino-3,4-dihydroxy-1,6-diphenylhexane
(2S,3R,4R,5S)-2,5-Di-(N-((t-butyloxy)carbonyl)amino)-3,4-dihydroxy-1,6-diphenylhexane (2.7 g, 5.4 mmol) was treated with 200 ml of 6N aqueous hydrochloric acid and heated to 90° C. until the solid had completely dissolved (30 min). The resulting solution was cooled, concentrated in vacuo, treated with saturated brine and 3N aqueous NaOH, extracted with chloroform, dried over Na2SO4, and concentrated in vacuo. Silica gel chromatography using 3% methanol/2% isopropylamine in chloroform provided the pure desired compound (Rf 0.40, 5% methanol/2% isopropylamine in chloroform) as a white solid, m.p. 86°-89° C. 1H NMR (CDCl3) δ 2.72 (dd, J=14, 9 Hz, 2H), 2.92 (dd, J=14, 6 Hz, 2H), 3.03 (dd, J=9, 5 Hz, 2H), 3.69 (s, 2H), 7.15-7.35 (m, 10H). Mass spectrum: (M+H)+ = 301.

reactant | (2S,3R,4R,5S)-2,5-Di-(N-((t-butyloxy)carbonyl)amino)-3,4-dihydroxy-1,6-diphenylhexane | 5.4 mmol, 2.7 g | C(C)(C)(C)OC(=O)N[C@@H](CC1=CC=CC=C1)[C@H]([C@@H]([C@H](CC1=CC=CC=C1)NC(=O)OC(C)(C)C)O)O | C28H40N2O6
solvent | hydrochloric acid | 6N, 200 ml | Cl | ClH
product | (2S,3R,4R,5S)-2.5-Diamino-3,4-dihydroxy-1,6-diphenylhexane | N[C@@H](CC1=CC=CC=C1)[C@H]([C@@H]([C@H](CC1=CC=CC=C1)N)O)O | C18H24N2O2
